US07321059B2
(a) 2-({6[2-(Benzyloxy)-1-({[6-(tetrahydro-2H-pyran-2-yloxy)hexyl]oxy}methyl)ethoxy]hexyl}oxy)tetrahydro-2H-pyran
To a cooled solution, 0° C., of 1-benzylglycerol (3.00 g) in dimethylformamide (165 ml) was added sodium hydride (60% dispersion in mineral oil, 3.95 g) and the reaction stirred for 45 minutes. 1-Tetrahydropyran-2-yloxy-6-bromohexane (13.10 g) was added and the reaction stirred at 20° C. for 19 hours. The reaction was quenched by the portionwise addition of methanol(10 ml) over 30 minutes at 0° C. The solvent was removed in vacuo and the residue partitioned between water (125 ml) and dichloromethane(125 ml). The organic layer was washed with brine (150 ml), dried and the solvent removed in vacuo. This was purified by column chromatography on silica gel (Biotage) eluting with 8% ethyl acetate in cyclohexane to give the title compound as a pale yellow oil (3.74 g).

reactant | 1-benzylglycerol | 3.00 g | C(C1=CC=CC=C1)OCC(O)CO | C10H14O3
reactant | sodium hydride | 3.95 g | [H-].[Na+]
reactant | 1-Tetrahydropyran-2-yloxy-6-bromohexane | 13.10 g | O1C(CCCC1)OCCCCCCBr | C11H21BrO2
solvent | dimethylformamide | 165 ml | CN(C=O)C | C3H7NO
product | 2-({6[2-(Benzyloxy)-1-({[6-(tetrahydro-2H-pyran-2-yloxy)hexyl]oxy}methyl)ethoxy]hexyl}oxy)tetrahydro-2H-pyran | 3.74 g | C(C1=CC=CC=C1)OCC(OCCCCCCOC1OCCCC1)COCCCCCCOC1OCCCC1 | C32H54O7
